US06469006B1
An oven dried two neck flask was charged with 5 ml DMF and NaH (66 mg, 60% in oil, 1.65 mmol). The mixture was cooled down to 0° C., followed by dropwise addition of 4-hydroxy indole (200 mg, 1.5 mmol) in 5 ml DMF over 10 second. After stirring for 30 min under N2, bromoethane in 2 ml DMF was added dropwise, and the reaction was allowed to warm to rt. with continued stirring for 2 hr. Removal of the solvent in vacuo, followed by aqueous work up afforded crude 4-ethoxyindole which was purified by prep. HPLC to afford 201 mg (83%) of pure 4-ethxyindole; HPLC retention time, 1.190 min.

reactant | NaH | 1.65 mmol, 66 mg | [H-].[Na+]
reactant | 4-hydroxy indole | 1.5 mmol, 200 mg | OC1=C2C=CNC2=CC=C1 | C8H7NO
reactant | bromoethane | BrCC | C2H5Br
solvent | DMF | 5 ml | CN(C)C=O | C3H7NO
solvent | DMF | 2 ml | CN(C)C=O | C3H7NO
solvent | DMF | 5 ml | CN(C)C=O | C3H7NO
product | 4-ethoxyindole | C(C)OC1=C2C=CNC2=CC=C1 | C10H11NO
